US07169780B2
Step 9: Methyl 5-(benzoyloxy)-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate
Methyl-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-5,6-dihydroxypyrimidine-4-carboxylate in dry pyridine was treated with benzoic anhydride (2 eq.) overnight at room temperature.

reactant | Methyl-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-5,6-dihydroxypyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1O)O)[C@H]1N(CC(C1)(F)F)C(=O)OCC1=CC=CC=C1 | C18H17F2N3O6
reactant | benzoic anhydride | 2 eq. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 5-(benzoyloxy)-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)[C@H]1N(CC(C1)(F)F)C(=O)OCC1=CC=CC=C1)C(=O)OC | C25H21F2N3O7
